US06482773B1
First, 50 g (0.29 mol) of 2-chloro-4-fluorobenzoic acid was dissolved in 150 ml of hydrochloric acid at room temperature, to which a mixed acid of 28 ml (0.31 mol) of fuming nitric acid and 56 ml of concentrated sulfuric acid was added dropwise at 35° to 45° C. Then, the solution was stirred at 40° C. for 1 hour and poured into 250 ml of ice-water. The precipitated crystals were collected by filtration and recrystallized from a mixed solution of hexane and ethyl acetate, which afforded 55 g (0.25 mol) of 2-chloro-4-fluoro-5-nitrobenzoic acid. Then, 55 g (0.25 mol) of 2-chloro-4-fluoro-5-nitrobenzoic acid was dissolved in 50 ml of ethyl acetate, to which 33 g (0.28 mol) of thionyl chloride was added, and the mixture was heated under reflux for 3 hours and then allowed to stand for cooling to room temperature. Then, 20 ml of ethanol and 30 g of triethylamine were added under ice cooling, and the mixture was stirred at room temperature for 2 hours. The solvent was distilled out, and the residue was purified by silica gel chromatography, which afforded 57 g (0.23 mol) of ethyl 2-chloro-4-fluoro-5-nitrobenzoate.

reactant | 2-chloro-4-fluoro-5-nitrobenzoic acid | 0.25 mol, 55 g | ClC1=C(C(=O)O)C=C(C(=C1)F)[N+](=O)[O-] | C7H3ClFNO4
reactant | thionyl chloride | 0.28 mol, 33 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | triethylamine | 30 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-chloro-4-fluoro-5-nitrobenzoate | 0.23 mol, 57 g | ClC1=C(C(=O)OCC)C=C(C(=C1)F)[N+](=O)[O-] | C9H7ClFNO4
